US07981903B2
A mixture of 2-({2-{[1-(N,N-dimethylglycyl)-6-methyl-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide (87 mg, 0.127 mmol) and a 1M aqueous KOH solution (1.270 mL, 1.270 mmol) in dioxane (50 mL) was heated at 80° C. for 10 h. The resulting mixture was allowed to cool to rt, diluted with EtOAc (100 mL) and a saturated NaHCO3 solution. The organic layer was washed with a saturated NaCl solution (100 mL), concentrated onto Celite and purified by silica gel chromatography (ISCO 12 g) using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2. The product was taken up into a mixture of CH2Cl2 and Et2O and concentrated again to afford 2-[(2-{[1-(N,N-dimethylglycyl)-6-methyl-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide as a pale yellow solid (41 mg, 61%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.79-1.96 (m, 2H), 2.12 (s, 6H), 2.16 (s, 3H), 2.69 (t, J=6.41 Hz, 2H), 2.81 (d, J=4.58 Hz, 3H), 3.18 (br s, 2H), 3.71 (t, J=5.86 Hz, 2H), 6.23 (d, J=1.47 Hz, 1H), 6.82-6.96 (m, 2H), 7.00 (s, 1H), 7.16-7.34 (m, 1H), 7.79 (br s, 1H), 8.04 (s, 1H), 8.34 (d, J=8.42 Hz, 1H), 8.44-8.61 Hz, 1H), 10.16 (s, 1H), 11.22 (br s, 1H); ESIMS (M+H)+=531.17.

reactant | 2-({2-{[1-(N,N-dimethylglycyl)-6-methyl-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide | 0.127 mmol, 87 mg | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NC)C(=CC=C2)F)C)C | C35H37FN8O4S
reactant | KOH | 1.270 mmol, 1M, 1.270 mL | [OH-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-6-methyl-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 41 mg, 61% | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)C)C | C28H31FN8O2
